US04260634
The experiment of Example 1A was repeated in all essential details except that p-thiocresol, 3-aminopropanol and propionic acid in equimolar amounts were used as the reactants. There was obtained N-[3-(p-methylphenylthio)-propyl]propionamide, m.p. 55.5°-56.5° C., designated P-2142. The nmr spectrum was consistent with the proposed structure. P-2142 was generally ineffective for controlling the growth of seven species of bacteria but was effective (MIC-100-500) for controlling the growth of four species of fungi.

reactant | p-thiocresol | CC1=CC=C(C=C1)S | C7H8S
reactant | 3-aminopropanol | NCCCO | C3H9NO
reactant | propionic acid | C(CC)(=O)O | C3H6O2
product | N-[3-(p-methylphenylthio)-propyl]propionamide | CC1=CC=C(C=C1)SCCCNC(CC)=O | C13H19NOS
